US06340704B1
N-Methyl-9-(1,3-benzodioxole-5-yl)-8-hydroxymethylnaphtho[1,2-d]-1,3-dioxole-7-carboxamide
Helioxanthin (1.0 g) was suspended in benzene (10 ml), followed by addition of methylamine (40% methanol solution: 2 ml). The mixture was heated at 120° C. under stirring for 4 days. The reaction mixture was concentrated under reduced pressure. The resulting residue was recrystalized from DMF to yield the title compound (144 mg).

reactant | Helioxanthin | 1.0 g | C1=CC2=C(C3=C1C=C4C(=C3C=5C=CC6=C(C5)OCO6)COC4=O)OCO2 | C20H12O6
reactant | methylamine | 2 ml | CN | CH5N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-Methyl-9-(1,3-benzodioxole-5-yl)-8-hydroxymethylnaphtho[1,2-d]-1,3-dioxole-7-carboxamide | 144 mg | CNC(=O)C=1C=C2C=CC3=C(OCO3)C2=C(C1CO)C1=CC2=C(OCO2)C=C1 | C21H17NO6
